US06890955B2
A mixture of 3 g (21.56 mmol) of 3-nitrophenol, 4.3 g (22 mmol) of tert-butyl bromoacetate, 3.2 g of anhydrous potassium carbonate and 50 ml of acetone is stirred overnight at room temperature. The mixture is filtered and washed with acetone and both the filtrate and the washing product are evaporated to give a yellow oil. The oil is purified on a silica gel chromatography column using an EtOAc/cyclohexane mixture (50/50) as the eluent to give 5 g (92%) of tert-butyl 3-nitrophenoxyacetate (colourless oil). 2 g of Pd/C (10%) are added to a solution of 4.8 g (18.95 mmol) of tert-butyl 3-nitrophenoxyacetate in 20 ml of ethanol and the mixture is hydrogenated overnight at one atmosphere. The catalyst is filtered off. The solvent is evaporated off to give 3.38 g (80%) of tert-butyl 3-amidophenoxyacetate, which is chromatographed on a silica gel column using an EtOAc/cyclohexane mixture (50/50) as the eluent. A mixture of the resulting amine (0.5 g, 2.24 mmol) and 1,2-epoxy-3-phenoxypropane is heated at 70° C. overnight. After cooling, the product is washed with ethanol and the precipitate is filtered off to give 0.6 g of the tert-butyl ester. 0.6 g of this ester and 15 ml of 6 N HCl are mixed overnight at 80° C. The solvent is evaporated off and the residue is washed with an EtOH/CH3CN mixture and then recrystallized from CH3CN to give 0.36 g of a salt with the following characteristics: melting point 138-139° C.; 1H NMR (DMSO-d6) δ 3.82 (m, 2H), 3.96 (m, 4H), 4.06 (m, 1H), 4.72 (s, 2H), 6.88-7.00 (n, 5H Ar), 7.24-7.45 (m, 4H Ar).

reactant | 3-nitrophenol | 21.56 mmol, 3 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | tert-butyl bromoacetate | 22 mmol, 4.3 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 3.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | tert-butyl 3-nitrophenoxyacetate | 5 g, 92% | [N+](=O)([O-])C=1C=C(OCC(=O)OC(C)(C)C)C=CC1 | C12H15NO5
